US07129206B2
Preparation of 1-(3-methylphenyl)ethenyl Acetate
Using a 15 cm Wiedmer distillation apparatus, a solution of 50 mmol of 3-methyl acetophenone in 15.02 g (150 mmol) of isopropenyl acetate was heated at 95° in the presence of 75 mg of para-toluene sulphonic acid. At a stabilised conversion (50–70% by GC, after 8 h at 95°), the mixture was cooled and 300 mg of trioctylamine were added. After extraction by means of ether, and usual workup, the product was distilled on a bulb-to-bulb apparatus and purified by preparative GC using a 1.2 m×6 mm column loaded with 10% SE-30 on Supelcoport® 80–100 mesh, vector gas: helium at 30 ml/min. The product was obtained in 60% yield

reactant | isopropenyl acetate | 150 mmol, 15.02 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | para-toluene sulphonic acid | 75 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trioctylamine | 300 mg | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
product | 1-(3-methylphenyl)ethenyl Acetate | 60% yield | C(C)(=O)OC(=C)C1=CC(=CC=C1)C | C11H12O2
